US05753679
2.0 g (0.01045 mol) of 1-benzyl-4-hydroxypiperidine were dissolved in 20 ml of dichlormethane and 5.1 ml (0.0366 mol) of triethylamine, cooled to 00 and treated with a solution of 1 ml (0.01255 mol) of methanesulfonyl chloride in 5 ml of dichloromethane. The mixture was stirred at 0° for 1/2 hr. Then, 10ml of 1N aqueous HCI were added, the mixture was stirred for 5 min. and the organic phase was washed with 1N aqueous HCI, with saturated bicarbonate solution and saturated sodium chloride solution and dried over magnesium sulfate. 0.97 g (35%) of 1-benzylpiperidin-4-yl methanesulfonate was obtained as yellow crystals. MS: me/e=270 (C13 H20NO3S+).

reactant | 1-benzyl-4-hydroxypiperidine | 0.01045 mol, 2.0 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0366 mol, 5.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.01255 mol, 1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichlormethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-benzylpiperidin-4-yl methanesulfonate | 0.97 g, 35% | CS(=O)(=O)OC1CCN(CC1)CC1=CC=CC=C1 | C13H19NO3S
